### PR TITLE
[Merged by Bors] - feat(AlgebraicTopology/ModelCategory): a trick by Joyal

### PR DESCRIPTION
**Pull request by joelriou**
In order to construct a model category, we may sometimes have basically proven all the axioms with the exception of the left lifting property of cofibrations with respect to trivial fibrations. A trick by Joyal allows to obtain this lifting property under suitable assumptions, namely that cofibrations are stable under composition and cobase change. (The dual statement is also formalized.)

This will be used in the formalization of the model category structure on topological spaces, simplicial sets, simplicial presheaves, etc.

--- 

- [x] depends on: #26166

This PR continues the work from #20224.

Original PR: https://github.com/leanprover-community/mathlib4/pull/20224

### CODE REVIEW

**Comment by joelriou** [comment]
## Comments from Original PR #20224

*This section contains 1 comment(s) from the original PR, excluding bot comments.*

---

**@github-actions** ([2024-12-24 15:02 UTC](https://github.com/leanprover-community/mathlib4/pull/20224#issuecomment-2561212980)):
### PR summary [eecc0d927c](https://github.com/leanprover-community/mathlib4/pull/20224/commits/eecc0d927c2c6f38b7a1bfbbf245854a2e89fcc3)

Import changes exceeding 2%

| %      | File |
| -      | -    |
| +10.24% | `Mathlib.AlgebraicTopology.ModelCategory.Basic` |

<details><summary>

#### Import changes for modified files

</summary>

Dependency changes

| File | Base Count | Head Count | Change |
| --- | --- | --- | --- |
| Mathlib.AlgebraicTopology.ModelCategory.Basic | 586 | 646 | +60 (+10.24%) |


<details><summary>Import changes for all files</summary>

|Files|Import difference|
|-|-|
| `Mathlib.AlgebraicTopology.ModelCategory.Basic`|60|
| `Mathlib.AlgebraicTopology.ModelCategory.JoyalTrick` (new file)|640|
| `Mathlib.CategoryTheory.MorphismProperty.WeakFactorizationSystem` (new file)|643|
| `Mathlib.AlgebraicTopology.ModelCategory.Instances` (new file)|645|

</details>

</details>

---

<details><summary>

#### Declarations diff

</summary>

`+ IsWeakFactorizationSystem`
`+ cofibrations_isStableUnderCoproductsOfShape`
`+ cofibrations_rlp`
`+ fibrations_isStableUnderProductsOfShape`
`+ fibrations_llp`
`+ hasLiftingProperty_of_wfs`
`+ instance : (cofibrations C).IsMultiplicative := by`
`+ instance : (cofibrations C).IsStableUnderCobaseChange := by`
`+ instance : (fibrations C).IsMultiplicative := by`
`+ instance : (fibrations C).IsStableUnderBaseChange := by`
`+ instance : (trivialCofibrations C).IsMultiplicative := by`
`+ instance : (trivialCofibrations C).IsStableUnderCobaseChange := by`
`+ instance : (trivialFibrations C).IsMultiplicative := by`
`+ instance : (trivialFibrations C).IsStableUnderBaseChange := by`
`+ instance : MorphismProperty.IsWeakFactorizationSystem (cofibrations C) (trivialFibrations C)`
`+ instance : MorphismProperty.IsWeakFactorizationSystem (trivialCofibrations C) (fibrations C)`
`+ instance [(cofibrations C).IsStableUnderCobaseChange] [hf : Cofibration f] :`
`+ instance [(cofibrations C).IsStableUnderCobaseChange] [hg : Cofibration g] :`
`+ instance [(cofibrations C).IsStableUnderComposition]`
`+ instance [(fibrations C).IsStableUnderComposition]`
`+ instance [(weakEquivalences C).IsStableUnderComposition]`
`+ instance [CategoryWithWeakEquivalences C] [CategoryWithCofibrations C]`
`+ instance [CategoryWithWeakEquivalences C] [CategoryWithFibrations C]`
`+ instance [IsWeakFactorizationSystem (cofibrations C) (trivialFibrations C)] :`
`+ instance [IsWeakFactorizationSystem (cofibrations C) (trivialFibrations C)] [IsIso f] :`
`+ instance [IsWeakFactorizationSystem (trivialCofibrations C) (fibrations C)] :`
`+ instance [IsWeakFactorizationSystem (trivialCofibrations C) (fibrations C)] [IsIso f] :`
`+ joyal_trick`
`+ llp_eq_of_wfs`
`+ mk'.cm3a_aux`
`+ rlp_eq_of_wfs`
`+ trivialCofibrations_isStableUnderCoproductsOfShape`
`+ trivialCofibrations_rlp`
`+ trivialFibrations_isStableUnderProductsOfShape`
`+ trivialFibrations_llp`
`+ weakEquivalence_of_postcomp`
`+ weakEquivalence_of_postcomp_of_fac`
`+ weakEquivalence_of_precomp`
`+ weakEquivalence_of_precomp_of_fac`
`++ instance [(fibrations C).IsStableUnderBaseChange]`
`++ instance [(trivialCofibrations C).IsStableUnderCobaseChange]`
`++ instance [(trivialFibrations C).IsStableUnderBaseChange]`
`++ instance [IsWeakFactorizationSystem (cofibrations C) (trivialFibrations C)]`
`++ mk'`
`+++++ instance [IsWeakFactorizationSystem (trivialCofibrations C) (fibrations C)]`
<details>
  <summary>You can run this locally as follows</summary>


```bash
## summary with just the declaration names:
./scripts/declarations_diff.sh <optional_commit>

## more verbose report:
./scripts/declarations_diff.sh long <optional_commit>
```
</details>

The doc-module for `script/declarations_diff.sh` contains some details about this script.

</details>

---

<details><summary>No changes to technical debt.</summary>

You can run this locally as
```
./scripts/technical-debt-metrics.sh pr_summary
```
* The `relative` value is the weighted *sum* of the differences with weight given by the *inverse* of the current value of the statistic.
* The `absolute` value is the `relative` value divided by the total sum of the inverses of the current values (i.e. the weighted *average* of the differences).
</details>

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/AlgebraicTopology/ModelCategory/JoyalTrick.lean [hunk 1]
```diff
@@ -0,0 +1,83 @@
...
+lemma joyal_trick
+    [HasFactorization (cofibrations C) (trivialFibrations C)] [HasPushouts C]
+    [(cofibrations C).IsStableUnderComposition] [(cofibrations C).IsStableUnderCobaseChange]
+    (h : ∀ {A B X Y : C} (i : A ⟶ B) (p : X ⟶ Y)
+      [Cofibration i] [WeakEquivalence i] [Fibration p], HasLiftingProperty i p)
+    {A B X Y : C} (i : A ⟶ B) (p : X ⟶ Y)
+    [Cofibration i] [Fibration p] [WeakEquivalence p] :
+    HasLiftingProperty i p where
+  sq_hasLift {f g} sq := by
+    have h := factorizationData (cofibrations C) (trivialFibrations C)
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/JoyalTrick.lean]:
```suggestion
    let h := factorizationData (cofibrations C) (trivialFibrations C)
```

I know it doesn’t really matter here and works with `have` because the actual definition of `h` doesn’t matter here, but I feel it’s still better practice to use `let` for type-valued data.

File: Mathlib/AlgebraicTopology/ModelCategory/JoyalTrick.lean [hunk 2]
```diff
@@ -0,0 +1,83 @@
...
+    have h₂ := comp_mem _ _ _ ((cofibrations C).of_isPushout
+      (IsPushout.of_hasPushout f i) (mem_cofibrations i)) h.hi
+    rw [← cofibration_iff] at h₂
+    have : WeakEquivalence (pushout.inl f i ≫ h.i) := by
+      rw [weakEquivalence_iff] at h₁ ⊢
+      exact of_postcomp _ _ _ h.hp.2 h₁
+    exact ⟨⟨{ l := pushout.inr f i ≫ h.i ≫ sq'.lift
+              fac_left := by
+                simpa only [assoc, comp_id, pushout.condition_assoc]
+                  using f ≫= sq'.fac_left }⟩⟩
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/JoyalTrick.lean]:
```suggestion
                simpa only [assoc, comp_id, pushout.condition_assoc] using
                  f ≫= sq'.fac_left }⟩⟩
```

To me, `using` is "operator-like" in this syntax, so I guess we should put it on the same line for consistency with the policy for operators?

File: Mathlib/AlgebraicTopology/ModelCategory/JoyalTrick.lean [hunk 3]
```diff
@@ -0,0 +1,83 @@
...
+    [(cofibrations C).IsStableUnderComposition] [(cofibrations C).IsStableUnderCobaseChange]
+    (h : ∀ {A B X Y : C} (i : A ⟶ B) (p : X ⟶ Y)
+      [Cofibration i] [WeakEquivalence i] [Fibration p], HasLiftingProperty i p)
+    {A B X Y : C} (i : A ⟶ B) (p : X ⟶ Y)
+    [Cofibration i] [Fibration p] [WeakEquivalence p] :
+    HasLiftingProperty i p where
+  sq_hasLift {f g} sq := by
+    have h := factorizationData (cofibrations C) (trivialFibrations C)
+      (pushout.desc p g sq.w)
+    have sq' : CommSq (𝟙 X) (pushout.inl _ _ ≫ h.i) p h.p := ⟨by simp⟩
```
Comment (robin-carlier) [inline Mathlib/AlgebraicTopology/ModelCategory/JoyalTrick.lean]:
```suggestion
    have sq' : CommSq (𝟙 X) (pushout.inl _ _ ≫ h.i) p h.p := .mk
```

I guess we have the autoparam now, so this is possible (or a `{ }` instead of ̀`.mk` but this looks a bit weird).

**Review by robin-carlier — APPROVED** [review]
Minor style questions, which also apply to the dual statement, but otherwise looks good.

**Comment by joelriou** [comment]
Thaks @robin-carlier for the suggestions!

**Comment by robin-carlier** [comment]
Thanks!

maintainer merge

File: Mathlib/AlgebraicTopology/ModelCategory/JoyalTrick.lean [hunk 4]
```diff
@@ -0,0 +1,83 @@
...
+
+namespace HomotopicalAlgebra
+
+namespace ModelCategory
+
+variable {C : Type*} [Category C]
+  [CategoryWithCofibrations C] [CategoryWithFibrations C] [CategoryWithWeakEquivalences C]
+  [(weakEquivalences C).HasTwoOutOfThreeProperty]
+
+lemma joyal_trick
```
Comment (jcommelin) [inline Mathlib/AlgebraicTopology/ModelCategory/JoyalTrick.lean]: What do you think of
```suggestion
lemma hasLiftingProperty_of_joyalTrick
```
and then a short docstring that explains the trick?

**Comment by jcommelin** [comment]
bors d+

**Comment by joelriou** [comment]
Thanks!

bors merge
